US04596799
Pyridine-2-carboxylic acid hydrazide is prepared as follows: 230 g (228 mL) of anhydrous hydrazine is added, over a period of 10-15 minutes, to a stirred solution of 977.4 g of ethyl pyridine-2-carboxylate ((ethyl picolinate) in 1750 mL of anhydrous ethanol. The reaction is exothermic. The solution is stirred and refluxed for 5 hours, then stirred at room temperature overnight. The crystalline product is filtered off, washed first with anhydrous alcohol and then with anhydrous ether, and air-dried to yield pyridine-2-carboxylic acid hydrazide, m.p. 95°-100°.

reactant | hydrazine | 228 mL, 230 g | NN | H4N2
reactant | ethyl pyridine-2-carboxylate | 977.4 g | N1=C(C=CC=C1)C(=O)OCC | C8H9NO2
solvent | ethanol | 1750 mL | C(C)O | C2H6O
product | pyridine-2-carboxylic acid hydrazide | N1=C(C=CC=C1)C(=O)NN | C6H7N3O
